US08114877B2
AA3) Carbonic acid (1S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopent-2-enyl ester ethyl ester
(1S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopent-2-enol (3.00 g, 6.95 mmol) is placed in an oven-dried flask under an atmosphere of argon. Dry THF (100 mL) is added followed by dry pyridine (1.10 g, 13.90 mmol). Ethyl chloroformate (3.02 g, 27.80 mmol) is added slowly and the reaction mixture is stirred at room temperature for 4 hours. The solvent is removed in vacuo and the residue is partitioned between dichloromethane (200 mL) and 10% citric acid (200 mL). The organic layer is washed with water (150 ml) and brine (150 ml), dried over MgSO4, filtered and the solvent is removed in vacuo. The title compound is obtained after purification by flash column chromatography (silica, iso-hexane/ethyl acetate 2:1). 1H nmr (CDCl3, 400 MHz); 7.70 (br s, 1H), 7.35-7.15 (m, 10H), 6.35 (m, 1H), 6.15 (m, 1H), 5.80 (m, 1H), 5.65 (m, 2H), 4.35 (t, 1H), 4.25 (m, 2H), 4.20 (q, 2H), 3.10 (m, 1H), 1.95 (d, 1H), 1.30 (t, 3H), MS (ES+) m/e 504 (MH+).

reactant | (1S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopent-2-enol | 6.95 mmol, 3.00 g | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22ClN5O
reactant | pyridine | 13.90 mmol, 1.10 g | N1=CC=CC=C1 | C5H5N
reactant | Ethyl chloroformate | 27.80 mmol, 3.02 g | ClC(=O)OCC | C3H5ClO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Carbonic acid (1S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopent-2-enyl ester ethyl ester | C(C)OC(O[C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)=O | C27H26ClN5O3
